US06420385B1
2-(((S)-3-Amino-3-phenylpropyl)-amino)-3-methyl-6-(4-pyridyl)-5-(3-trifluoromethylphenyl)-4(3H)-pyrimidinone Hydrochloride:
Aqueous sat. sodium carbonate (2 ml) was added to a solution of 2-chloro-3-methyl-6-(4-pyridyl)-5-(3-trifluoromethylphenyl)-4(3H)-pyrimidinone hydrochloride (730 mg, 2 mmol) and (S)-1-phenyl-1,3-propanediamine (360 mg, 2.4 mmol) in ethanol (10 ml). The mixture was stirred for 4 h at room temperature. It was evaporated and the remainder partitioned between dichloromethane and water. The organic solution was dried and evaporated followed by column chromatography on silica gel (dichloromethane:methanol conc. ammonium hydroxide=93 7:0.7). MS (m/z): 480 (M+H)+; C26H24F3N5O requir. 479.5 (free base).

reactant | sodium carbonate | 2 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chloro-3-methyl-6-(4-pyridyl)-5-(3-trifluoromethylphenyl)-4(3H)-pyrimidinone hydrochloride | 2 mmol, 730 mg | Cl.ClC1=NC(=C(C(N1C)=O)C1=CC(=CC=C1)C(F)(F)F)C1=CC=NC=C1
reactant | (S)-1-phenyl-1,3-propanediamine | 2.4 mmol, 360 mg | C1(=CC=CC=C1)[C@H](CCN)N | C9H14N2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(((S)-3-Amino-3-phenylpropyl)-amino)-3-methyl-6-(4-pyridyl)-5-(3-trifluoromethylphenyl)-4(3H)-pyrimidinone Hydrochloride | Cl.N[C@@H](CCNC1=NC(=C(C(N1C)=O)C1=CC(=CC=C1)C(F)(F)F)C1=CC=NC=C1)C1=CC=CC=C1 | InChI=1S/C26H24F3N5O.ClH/c1-34-24(35)22(19-8-5-9-20(16-19)26(27,28)29)23(18-10-13-31-14-11-18)33-25(34)32-15-12-21(30)17-6-3-2-4-7-17;/h2-11,13-14,16,21H,12,15,30H2,1H3,(H,32,33);1H/t21-;/m0./s1
